US03998844
A solution of 30 g. of 1-methylpyrrole-2-acetonitrile and 60 g of p-toluoyl chloride in 200 ml of o-dichlorobenzene is refluxed under nitrogen for 4 hrs. The mixture is concentrated to near dryness, diluted with 250 ml. of methylene chloride, washed successively with an aqueous solution of dimethylaminopropylamine, dilute hydrochloric acid and potassium carbonate solution. Removal of the organic solvent leaves an oily residue which crystallizes in 80 ml of methanol to give 22.2 g (39%) of 1-methyl-5-(p-toluoyl)-pyrrole-2-acetonitrile. The methanol filtrate is concentrated and the residual oil is hydrolyzed to the amide by brief refluxing with aqueous ethanolic NaOH (10%). The separated solid is collected giving 10.1 g (16.4%) of 1-methyl-5-(p-toluoyl)-pyrrole-2-acetamide. Total yield = 55.4%.

reactant | 1-methylpyrrole-2-acetonitrile | CN1C(=CC=C1)CC#N | C7H8N2
reactant | p-toluoyl chloride | 60 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | o-dichlorobenzene | 200 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-methyl-5-(p-toluoyl)-pyrrole-2-acetonitrile | 22.2 g, 39% | CN1C(=CC=C1C(=O)C1=CC=C(C=C1)C)CC#N | C15H14N2O
